US08350028B2
1-Isopropyl-3-[2-(2-methyl-2,3-dihydro-benzofuran-7-ylamino)quinolin-6-yl]-urea
The title compound, MS: m/e=377.4 (M+H+), was prepared in accordance with the general method of example 14 from 2-chloro-6-nitro-quinoline, 2,3-dihydro-2-methyl-7-benzofuranamine (CAS 26210-74-2) and isopropyl isocyanate.

reactant | 2-chloro-6-nitro-quinoline | ClC1=NC2=CC=C(C=C2C=C1)[N+](=O)[O-] | C9H5ClN2O2
reactant | 2,3-dihydro-2-methyl-7-benzofuranamine | CC1OC2=C(C1)C=CC=C2N | C9H11NO
reactant | isopropyl isocyanate | C(C)(C)N=C=O | C4H7NO
product | 1-Isopropyl-3-[2-(2-methyl-2,3-dihydro-benzofuran-7-ylamino)quinolin-6-yl]-urea | C(C)(C)NC(=O)NC=1C=C2C=CC(=NC2=CC1)NC1=CC=CC=2CC(OC21)C | C22H24N4O2
